US03962441
2-(p-Chlorophenyl)-5-benzoxazolylacetic acid
A suspension of p-chlorobenzimidoethyl ether hydrochloride (16.5 g.) and 3-amino- 4-hydroxyphenylacetic acid (12.53 g.) in methanol (75 ml.) was refluxed for 2 hours. After standing at room temperature overnight the white solid product was removed by filtration. Re-crystallisation from ethanol gave the required acid, m.p. 241°- 242°C.

reactant | ether hydrochloride | 16.5 g | CCOCC.Cl
reactant | 3-amino- 4-hydroxyphenylacetic acid | 12.53 g | NC=1C=C(C=CC1O)CC(=O)O | C8H9NO3
solvent | methanol | 75 ml | CO | CH4O
product | 2-(p-Chlorophenyl)-5-benzoxazolylacetic acid | ClC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)CC(=O)O | C15H10ClNO3
